US08895547B2
[5-(3-Bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine
A solution of 209 mg of 5-(3-bromophenyl)-2-methoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide and 181 mg of (S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamine in 5 ml of methylene chloride was stirred at room temperature for 1 hour and the conversion was checked by LCMS. Since no conversion had taken place yet, the solvent was concentrated by rotary evaporation and the residue was stirred at room temperature for 19 hours. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (237 mg) with a molecular weight of 595.7 g/mol (C27H39BrN2O4SSi); MS (ESI): m/e=596 (M+h+).

reactant | 5-(3-bromophenyl)-2-methoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 209 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)OC)(=O)=O)C | C13H16BrNO4S
reactant | (S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamine | 181 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)N | C15H27NOSi
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | [5-(3-Bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 237 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O)C | C27H39BrN2O4SSi
